US09238639B2
A) 3-(2-Methoxy-2-oxoethyl)-4-vinyl-1-benzothiophen-6-yl pivalate
To a mixture of methyl 2-(6-hydroxy-4-vinyl-1-benzothiophen-3-yl)acetate (551 mg) and THF (dry) (5 mL) were added trimethylacetic anhydride (0.495 mL), TEA (0.619 mL), and DMAP (271 mg) at room temperature. The mixture was stirred at room temperature for 12 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with 1N HCl and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (480 mg).

reactant | methyl 2-(6-hydroxy-4-vinyl-1-benzothiophen-3-yl)acetate | 551 mg | OC1=CC2=C(C(=CS2)CC(=O)OC)C(=C1)C=C | C13H12O3S
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | trimethylacetic anhydride | 0.495 mL | CC(C(=O)OC(C(C)(C)C)=O)(C)C | C10H18O3
catalyst | DMAP | 271 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | 3-(2-Methoxy-2-oxoethyl)-4-vinyl-1-benzothiophen-6-yl pivalate | 480 mg | C(C(C)(C)C)(=O)OC1=CC2=C(C(=CS2)CC(=O)OC)C(=C1)C=C | C18H20O4S
